US07560589B2
Step 1: 4,4′-(Cycloheptylidenemethanediyl)diphenol (189)
To a stirred suspension of zinc powder (15.0 g, 0.23 mol) in THF (300 mL) was slowly added TiCl4 (12.5 mL, 0.115 mol) via a syringe at room temperature under a nitrogen atmosphere. The reaction mixture was heated at reflux for 1 h. A solution of bis(4-hydroxyphenyl)methanone (4.9 g, 0.023 mol) and cycloheptanone (7.74 g, 0.07 mol) in THF (100 mL) was added to the reaction mixture. The reaction mixture was heated at reflux with stirring under a nitrogen atmosphere for an additional 2 h. The reaction mixture was allowed to cool to room temperature. The reaction mixture was poured into a 10% aqueous K2CO3 (1 L). The reaction mixture was filtered through a pad of Celite and the pad was washed with EtOAc. The filtrate was transferred to a separatory funnel and the layers were separated. The aqueous phase was further extracted with EtOAc (4×250 mL). The combined organic phase was washed with brine (2×100 mL), dried (Na2SO4), filtered, and then concentrated under reduced pressure to give the crude product as a gold-yellow oil. The crude product was purified by flash chromatography on silica gel with hexanes:EtOAc (100:0 to 50:50) as an eluent to afford 6.75 g (99%) of the title compound 189 as a white solid. 1H NMR (DMSO-d6): δ 9.21 (s, 2H), 6.84 (d, J=6.3 Hz, 4H), 6.63 (d, J=6.3 Hz, 4H), 2.19 (br s, 4H), 1.48 (br s, 8H). LCMS (ESI): m/z 294 (M+H)+.

reactant | bis(4-hydroxyphenyl)methanone | 0.023 mol, 4.9 g | OC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H10O3
reactant | cycloheptanone | 0.07 mol, 7.74 g | C1(CCCCCC1)=O | C7H12O
reactant | K2CO3 | 1 L | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.23 mol, 15.0 g | [Zn] | Zn
catalyst | TiCl4 | 0.115 mol, 12.5 mL | Cl[Ti](Cl)(Cl)Cl
product | 4,4′-(Cycloheptylidenemethanediyl)diphenol | C1(CCCCCC1)=C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H22O2
